US09062092B2
Compound 88c: 4-Ethynyl-tetrahydro-pyran-4-carboxylic acid methyl ester
4-Chloroethynyl-tetrahydro-pyran-4-carboxylic acid methyl ester (1.01 g, 5 mmol) and copper powder (1.6 g, 25 mmol) were suspended in tetrahydrofuran (100 mL). Acetic acid (15 mL) was added and the reaction mixture was heated to 60° C. for 3 hours. After this time, the reaction mixture was poured onto water (copper powder was filtered off with the use of the filtration paper) and extracted with diethyl ether (3×50 mL). The combined organic extracts were washed with saturated solution of ammonium chloride (3×50 mL), with saturated solution of sodium bicarbonate (2×50 mL) and with water (50 mL). This water phase was extracted with diethyl ether (50 mL). Combined organic extracts were washed with brine (50 mL) and dried over magnesium sulfate, filtered through a 2 cm layer of silica gel (silica gel layer was washed with 50 mL of ethyl acetate), and concentrated under reduced pressure. After drying under high vacuum for one day, the title compound was isolated (0.84 g, quantitative yield) as a colorless oil. Rf=0.37, 30% ethyl acetate in iso-hexanes, phosphomolybdic acid in ethanol. LCMS (m/z) 169.0 [M+H]′ Tr=2.43 min (Gemini 5u C18 110 Å, 50×4.60 mm 5 micron column, 3.5 min, 2 ml/min, 5-100% acetonitrile/water, 0.1% acetic acid modifier gradient). 1H NMR (400 MHz, CDCl3): δ 3.80-3.67 (m, 4H), 3.73 (s, 3H), 2.34 (s, 1H), 1.98 (m, 2H), 1.80 (m, 2H).

reactant | 4-Chloroethynyl-tetrahydro-pyran-4-carboxylic acid methyl ester | 5 mmol, 1.01 g | COC(=O)C1(CCOCC1)C#CCl | C9H11ClO3
reactant | Acetic acid | 15 mL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
catalyst | copper | 25 mmol, 1.6 g | [Cu] | Cu
product | 4-Ethynyl-tetrahydro-pyran-4-carboxylic acid methyl ester | quantitative yield | COC(=O)C1(CCOCC1)C#C | C9H12O3
